US08304419B2
5-[bis(cyclopropylmethyl)amino]-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide
Triethylamine (0.049 mL, 0.355 mmol) was added to a suspension of 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate (0.207 g, 0.355 mmol) in dichloroethane (5 mL). To the resulting solution was added cyclopropanecarbaldehyde (0.027 mL, 0.355 mmol) and sodium triacetoxyborohydride (0.188 g, 0.887 mmol). After stirring at RT overnight, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated. The residue was purified by column chromatography (dichloromethane/methanol) to give the title compound (0.075 g, 37%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.23 (d, 1H), 8.89 (t, 1H), 7.80 (d, 1H), 7.43-7.55 (m, 3H), 7.33-7.41 (m, 1H), 7.24 (d, 1H), 6.86-7.00 (m, 3H), 4.54 (d, 2H), 3.16 (d, 4H), 0.75-1.05 (m, 2H), 0.21-0.57 (m, 4H), −0.05-0.26 (m, 4H). MS: m/z 577 (M+1).

reactant | Triethylamine | 0.355 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
reactant | 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate | 0.355 mmol, 0.207 g | FC(C(=O)O)(F)F.NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F
reactant | cyclopropanecarbaldehyde | 0.355 mmol, 0.027 mL | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.887 mmol, 0.188 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[bis(cyclopropylmethyl)amino]-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.075 g, 37% | C1(CC1)CN(C=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)CC1CC1 | C31H27Cl2FN4O2
